US07683060B2
Diisobutylaluminum hydride in THF (1.0 M, 96 mL, 0.096 mol) was added to a solution of 1-quinolin-6-ylcyclopropanecarbonitrile (12.4 g, 0.0639 mol) in toluene (120 mL) at −78° C. under an atmosphere of nitrogen. The reaction mixture was allowed to warm to −5 to 0° C., and stirred at that temperature for 3 h. The mixture was re-cooled to −60° C. Isopropyl alcohol (10 mL) was carefully added dropwise. After stirring for 30 min, the mixture was warmed to −5 to 0° C. The mixture was diluted with ethyl acetate, quenched with water and extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over anhydrous Na2SO4, filtered through a pad of silica gel and washed with ethyl acetate in hexanes (40%). The filtrate was concentrated to yield the desired 1-quinolin-6-ylcyclopropanecarbaldehyde (12 g, 95.1%).

reactant | Diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | THF | 0.096 mol, 1.0 M, 96 mL | C1CCOC1 | C4H8O
reactant | 1-quinolin-6-ylcyclopropanecarbonitrile | 0.0639 mol, 12.4 g | N1=CC=CC2=CC(=CC=C12)C1(CC1)C#N | C13H10N2
reactant | Isopropyl alcohol | 10 mL | C(C)(C)O | C3H8O
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-quinolin-6-ylcyclopropanecarbaldehyde | 12 g, 95.1% | N1=CC=CC2=CC(=CC=C12)C1(CC1)C=O | C13H11NO
